US07919496B2
5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID OCTYLAMIDE
Following the procedure as described in Example 3, making variations only as required to use n-octylamine in place of isoamylamine to react with 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid (0.040 g, yield 66%). 1H NMR (300 MHz, CDCl3) δ 7.73-7.7 (m, 1H), 7.63-7.51 (m, 2H), 7.34-7.31 (m, 1H), 7.05 (br. t, 1H), 4.06-4.01 (m, 1H), 3.90-3.81 (m, 1H), 3.75-3.6 (m, 2H), 3.53-3.5 (m, 2H), 3.42-3.28 (m, 4H), 1.59-1.52 (m, 2H), 1.4-1.18 (m, 10H), 0.84 (t, J=5.7 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 174.5, 167.5, 158.2, 156.0, 133.9, 133.9, 132.4, 129.6, 129.0, 127.5, 126.9, 126.8, 126.7, 125.3, 121.7, 49.5, 48.9, 45.9, 40.7, 39.6, 31.7, 29.4, 29.1, 29.11, 26.8, 22.6, 14.0. MS (ES+) m/z 498 (M+1).

reactant | n-octylamine | C(CCCCCCC)N | C8H19N
reactant | 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O3S
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID OCTYLAMIDE | C(CCCCCCC)NC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H30F3N5O2S
